US07968538B2
t-Butyl 4-(3-(1-(3,5-dichlorophenyl)ethylamino)-4-(2,2,2-trifluoroacetyl)phenyl)piperazine-1-carboxylate
1-(2-(1-(3,5-Dichlorophenyl)ethylamino)-4-fluorophenyl)-2,2,2-trifluoroethanone (600 mg, 1.62 mmol), t-butyl piperazine-1-carboxylate (110 mg, 0.29 mmol), N,N-diisopropylethylamine (74.6 mg, 0.58 mmol) were stirred at 60° C. in dry acetonitrile (20 mL) for 3 days. The solvent was evaporated and the residue was dissolved in dichloromethane and washed with water. The dichloromethane was evaporated and the crude compound was purified by silica chromatography using 20% ethyl acetate in hexanes to afford the title compound (77.0 mg, 49% yield). 1H NMR (400 MHz, CDCl3): δ 9.31 (d, 1H), 7.63 (d, 1H), 7.25 (s, 1H), 7.22 (s, 2H), 6.18 (d, 1H), 5.53 (s, 1H), 4.48 (m, 1H), 3.48 (m, 4H), 3.25 (m, 4H), 1.60 (d, 3H), 1.47 (s, 9H); MS (ESI) m/z: Calculated for C25H28Cl2F3N3O3: 545.15; Observed: 568.4 (M++Na).

reactant | 1-(2-(1-(3,5-Dichlorophenyl)ethylamino)-4-fluorophenyl)-2,2,2-trifluoroethanone | 1.62 mmol, 600 mg | ClC=1C=C(C=C(C1)Cl)C(C)NC1=C(C=CC(=C1)F)C(C(F)(F)F)=O | C16H11Cl2F4NO
reactant | t-butyl piperazine-1-carboxylate | 0.29 mmol, 110 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | N,N-diisopropylethylamine | 0.58 mmol, 74.6 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | t-Butyl 4-(3-(1-(3,5-dichlorophenyl)ethylamino)-4-(2,2,2-trifluoroacetyl)phenyl)piperazine-1-carboxylate | 77.0 mg, 49% yield | ClC=1C=C(C=C(C1)Cl)C(C)NC=1C=C(C=CC1C(C(F)(F)F)=O)N1CCN(CC1)C(=O)OC(C)(C)C | C25H28Cl2F3N3O3
